US06340759B1
(168-3) 1-(1-Ethylpiperazin-4-yl)-3-(2-formylthiazol-5-yl)isoquinoline
1-(1-Ethylpiperazin-4-yl)-3-[2-(1,3-dioxan-2-yl)thiazol-5-yl]isoquinoline (205 mg) was dissolved in tetrahydrofuran (4 ml), followed by the addition of 1N hydrochloric acid (3 ml), and the resulting mixture was stirred at room temperature for 8 hr. The reaction solution was basified by adding 8N sodium hydroxide thereto, and then extracted with in ethyl acetate. The resulting organic layer was washed with water, dried (over MgSO4) and evaporated, to give the title compound as a colorless oil (155 mg, yield; 80%).

reactant | 1-(1-Ethylpiperazin-4-yl)-3-[2-(1,3-dioxan-2-yl)thiazol-5-yl]isoquinoline | 205 mg | C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C1=CN=C(S1)C1OCCCO1 | C22H26N4O2S
reactant | hydrochloric acid | 1N, 3 ml | Cl | ClH
reactant | sodium hydroxide | 8N | [OH-].[Na+]
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 1-(1-Ethylpiperazin-4-yl)-3-(2-formylthiazol-5-yl)isoquinoline | 155 mg, yield; 80% | C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C1=CN=C(S1)C=O | C19H20N4OS
